US07342117B2
To a mixed solution of 13.50 kg of (R)-2-[[2-(4-aminophenyl) ethyl]amino]-1-phenylethanol monohydrochloride, 7.29 kg of 2-aminothiazol-4-yl-acetic acid, 4.46 kg of concentrated hydrochloric acid and 270 L of water, 9.73 kg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride (EDC) was added at 15° C., and the mixture was stirred for one hour. A mixed solution of 4.10 kg of sodium hydroxide and 110 L of water was dropped in the reaction solution, thereby undergoing crystallization. A generated crystal was collected by filtration and washed with water to obtain 26.2 kg of a wet cake of the β-form crystal of (R)-2-(2-aminothiazol-4-yl)-4′-[2-[(2-hydroxy-2-phenylethyl)amino]ethyl]acetanilide. This crystal was used for recrystallization as it was in the wet state.

reactant | (R)-2-[[2-(4-aminophenyl) ethyl]amino]-1-phenylethanol monohydrochloride | 13.50 kg | Cl.NC1=CC=C(C=C1)CCNC[C@H](O)C1=CC=CC=C1
reactant | 2-aminothiazol-4-yl-acetic acid | 7.29 kg | NC=1SC=C(N1)CC(=O)O | C5H6N2O2S
reactant | hydrochloric acid | 4.46 kg | Cl | ClH
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride | 9.73 kg | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydroxide | 4.10 kg | [OH-].[Na+]
solvent | water | 110 L | O | H2O
solvent | water | 270 L | O | H2O
product | (R)-2-(2-aminothiazol-4-yl)-4′-[2-[(2-hydroxy-2-phenylethyl)amino]ethyl]acetanilide | NC=1SC=C(N1)CC(=O)NC1=CC=C(C=C1)CCNC[C@@H](C1=CC=CC=C1)O | C21H24N4O2S
